US05416168
The initiator of structure (3), designated PFI10, was prepared using the procedures broadly described in WO 91 112277. The hydroxyl functionality in 2,2-dimethyl-3-chloropropanol was protected by reaction with trimethylsilyl chloride. A solution of trimethylsilyl chloride (27.16 g, 0.25 mol) in dry cyclohexane (150 g) was treated with 20.4 g of imidazole (0.30 mol) under an argon atmosphere. The resulting slurry was stirred vigorously at room temperature as 2,2-dimethyl-3-chloropropanol (30.93 g, 0.25 mol) was added slowly to the mixture. The rate of addition was controlled to keep the reaction temperature below 40° C. The resulting slurry was filtered affording a clear solution of the desired 1-trimethylsilyloxy-2,2-dimethyl-3-chloropropane. Analysis using a Gas Chromatography-Mass Spectroscopy (GC-MS) technique found essentially no side products. The trimethylsilyl protected adduct was obtained in quantitative yield. A repeat of this experiment gave similar results.

reactant | trimethylsilyl chloride | C[Si](C)(C)Cl | C3H9ClSi
reactant | trimethylsilyl chloride | 0.25 mol, 27.16 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | imidazole | 0.30 mol, 20.4 g | N1C=NC=C1 | C3H4N2
reactant | 2,2-dimethyl-3-chloropropanol | CC(CO)(CCl)C | C5H11ClO
reactant | 2,2-dimethyl-3-chloropropanol | 0.25 mol, 30.93 g | CC(CO)(CCl)C | C5H11ClO
solvent | cyclohexane | 150 g | C1CCCCC1 | C6H12
product | 1-trimethylsilyloxy-2,2-dimethyl-3-chloropropane | quantitative yield | C[Si](OCC(CCl)(C)C)(C)C | C8H19ClOSi
